US07671063B2
To an ice cooled solution of 20 g (162 mmol) 3-methoxy-phenylamine in 400 ml diethylether is added 24.9 ml (178 mmol) triethylamine and slowly within 30 minutes 23.9 ml (195 mmol) pivaloyl chloride. Due to the exothermic reaction the temperature rises despite cooling to 15° C. The temperature is left rising to room temperature, after 1 hour the reaction mixture is poured on ice and extracted with ethyl acetate, washed 2× with water and 1× with brine, dried with Na2SO4 and evaporated to give a crude product which is purified by two crystallizations from CH2Cl2/hexane to yield N-(3-methoxy-phenyl)-2,2-dimethyl-propionamide.

reactant | 3-methoxy-phenylamine | 162 mmol, 20 g | COC=1C=C(C=CC1)N | C7H9NO
reactant | triethylamine | 178 mmol, 24.9 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 195 mmol, 23.9 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | diethylether | 400 ml | C(C)OCC | C4H10O
product | N-(3-methoxy-phenyl)-2,2-dimethyl-propionamide | COC=1C=C(C=CC1)NC(C(C)(C)C)=O | C12H17NO2
